US05958942
i) Synthesis of 2-methyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine
To a solution of 2.41 g (6.61 mmol) of 2-methyl-5-[N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine in 15 ml of ethanol was added dropwise, for 5 minutes, 1.44 g (6.61 mmol of di-tert-butyl dicarbonate. The reaction mixture was stirred for one hour at room temperature, then the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 2.21 g of the desired compound (72.1%, colorless liquid).

reactant | 2-methyl-5-[N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 6.61 mmol, 2.41 g | CC=1N=C2N(C(=CC=C2)CNCCCCNS(=O)(=O)C(F)(F)F)C1 | C14H19F3N4O2S
reactant | di-tert-butyl dicarbonate | 6.61 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-methyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.21 g, 72.1% | CC=1N=C2N(C(=CC=C2)CN(CCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)C1 | C19H27F3N4O4S
